US04260816
p-{[6-(2-Naphthyloxy)hexyl]amino}benzoic acid
A solution of 4.8 g. of ethyl p-{[6-(2-naphthyloxy)hexyl]amino}benzoate and 4.8 g. of potassium hydroxide in 100 ml. of 95% ethanol is refluxed for 3 hours. The solution is cooled, diluted with water and acidified with concentrated hydrochloric acid. The mixture is filtered and the solid washed with ethanol and water and recrystallized from ether-methylene chloride and acetone to give crystals, m.p. 157°-159° C.

reactant | ethyl p-{[6-(2-naphthyloxy)hexyl]amino}benzoate | C1=C(C=CC2=CC=CC=C12)OCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C25H29NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | p-{[6-(2-Naphthyloxy)hexyl]amino}benzoic acid | C1=C(C=CC2=CC=CC=C12)OCCCCCCNC1=CC=C(C(=O)O)C=C1 | C23H25NO3
